US08030489B2
A mixture of rel-(1R,5S)-3-oxabicyclo[3.1.0]hexane-2,4-dione (1.1 g) and 2-methyl-2-propanol (10 ml) was stirred at 110° C. for 2.5 days. The reaction mixture was concentrated under reduced pressure to obtain rel-(1R,2S)-2-(tert-butoxycarbonyl)cyclopropanecarboxylic acid (1.8 g).

reactant | rel-(1R,5S)-3-oxabicyclo[3.1.0]hexane-2,4-dione | 1.1 g | [C@@H]12C(OC([C@H]2C1)=O)=O | C5H4O3
reactant | 2-methyl-2-propanol | 10 ml | CC(C)(C)O | C4H10O
product | rel-(1R,2S)-2-(tert-butoxycarbonyl)cyclopropanecarboxylic acid | 1.8 g | C(C)(C)(C)OC(=O)[C@@H]1[C@@H](C1)C(=O)O | C9H14O4
